US07329662B2
5-(3-Fluoro-4-trifluoromethyl-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-fluoro-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (151 mg, 0.5 mmol), prepared from commercially available 3-fluoro-4-trifluoromethyl-acetophenone according to general procedure A, and 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole [prepared from 4-cyanomethyl-2,6-dimethyl-pyridine, CAS No. 130138-46-4, see part synthesis of amino-pyrazole derivatives] (94 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (46 mg, 20%). MS (ISP) 455.0 [(M+H)+]; mp 245° C.

reactant | 1-(3-fluoro-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 151 mg | FC=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O | C11H5F7O2
reactant | 3-amino-4-(2,6-dimethyl-4-pyridinyl)-pyrazole | 0.5 mmol, 94 mg | NC1=NNC=C1C1=CC(=NC(=C1)C)C | C10H12N4
product | 5-(3-Fluoro-4-trifluoromethyl-phenyl)-3-(2,6-dimethyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 46 mg, 20% | FC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC(=C2)C)C | C21H13F7N4
